US05994368
To a mixture of naphthalene-2,6-dicarboxylic acid (5 g), methylamine hydrochloride (1.64 g) and 1-hydroxybenzotriazole (3.75 g) in dimethylformamide (50 ml) was added 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide (3.79 g) under ice-cooling. The mixture was stirred for 1 hour at the same temperature and then at ambient temperature overnight. The mixture was diluted with water, and the precipitates were collected by filtration to give 6-(methylcarbamoyl)naphthalene-2-carboxylic acid (4.07 g).

reactant | naphthalene-2,6-dicarboxylic acid | 5 g | C1=C(C=CC2=CC(=CC=C12)C(=O)O)C(=O)O | C12H8O4
reactant | methylamine hydrochloride | 1.64 g | Cl.CN
reactant | 1-hydroxybenzotriazole | 3.75 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide | 3.79 g | C(C)N=C=NCCCN(C)C | C8H17N3
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 6-(methylcarbamoyl)naphthalene-2-carboxylic acid | 4.07 g | CNC(=O)C=1C=C2C=CC(=CC2=CC1)C(=O)O | C13H11NO3
